US06329392B1
Synthesis of 4-[1-(2-Ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidine
Prepare by the method of Preparation 6 using 1-(t-butoxycarbonyl)-4-(1H-benzoimidazole-2-carbonyl)-piperidine and 2-chloroethyl ethyl ether to give the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzoimidazole-2-carbonyl)-piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2 | C18H23N3O3
reactant | 2-chloroethyl ethyl ether | C(C)OCCCl | C4H9ClO
product | 4-[1-(2-Ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidine | C(C)OCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C17H23N3O2
